US07160875B2
(S)-7-Amino-5H,7H-dibenzo[b,d]azepin-6-one was coupled with 2,2-dimethyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid in analogy to the description in examples 65 and 66 to yield 2,2-dimethyl-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide,

reactant | (S)-7-Amino-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
reactant | 2,2-dimethyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | CC(C(=O)O)(C(=O)NCC(C(F)(F)F)(F)F)C | C8H10F5NO3
product | 2,2-dimethyl-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | CC(C(=O)N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)(C(=O)NCC(C(F)(F)F)(F)F)C | C22H20F5N3O3
